US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-oxo-2-phenylacetamide
2-Oxo-N-(3-{1-perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-2-phenylacetamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature for 4 h. After neutralization with aqueous NaHCO3, the crude product was extracted in ethyl acetate and purified by preparative HPLC (0.014 g, 14% yield over 2 steps): 1H NMR (CD3OD) δ 8.80 (s, 1H), 8.39 (t, 1H), 8.21 (m, 2H), 8.13 (d, 1H), 7.94 (dt, 1H), 7.89 (dt, 1H), 7.82-7.69 (m, 3H), 7.64-7.57 (m, 3H); ES-MS (m/z) 409 [M+H]+.

reactant | 2-Oxo-N-(3-{1-perhydro-2H-pyran-2-yl-5[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-2-phenylacetamide | O=C(C(=O)NC1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1)C1=CC=CC=C1 | C47H38N6O3
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-oxo-2-phenylacetamide | 14% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(C(C1=CC=CC=C1)=O)=O | C23H16N6O2
